US07709471B2
Ethyl1-[[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]methyl]cyclopropane-1-carboxylate
To a stirred solution of Ethyl1-[(cyclopentylamino)methyl]cyclopropane-1-carboxylate in acetone (700 mL) at room temperature was added potassium carbonate (29.0 g, 209.6 mmol) followed by the 2,4-dichloro-5-nitropyrimidine (Frontier Scientific; 29.81 g, 153.7 mmol).

reactant | Ethyl1-[(cyclopentylamino)methyl]cyclopropane-1-carboxylate | C(C)OC(=O)C1(CC1)CNC1CCCC1 | C12H21NO2
reactant | potassium carbonate | 209.6 mmol, 29.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4-dichloro-5-nitropyrimidine | 153.7 mmol, 29.81 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
solvent | acetone | 700 mL | CC(=O)C | C3H6O
product | Ethyl1-[[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]methyl]cyclopropane-1-carboxylate | C(C)OC(=O)C1(CC1)CN(C1CCCC1)C1=NC(=NC=C1[N+](=O)[O-])Cl | C16H21ClN4O4
